US07612114B2
2-(3′-Benzyloxy-5-methoxybiphenyl-2-yl)-6-methoxynaphthalene
The title compound was synthesized by referring to Tetrahedron Lett., 1996, 37, 3857. To a solution of 5-methoxy-2-(6-methoxynaphthalen-2-yl)phenyl amine (340 mg) in tetrahydrofuran (8 ml) was added tetrafluoroboric acid (42% aqueous solution) (0.22 ml) under a nitrogen atmosphere, the solution was cooled at −40° C., isoamyl nitrite (2.4 ml) was then added dropwise thereto followed by stirring for 2 hours at −40° C. Diethyl ether (20 ml) was added thereto and the solid that was precipitated was filtered. A suspension of the resulting 5-methoxy-2-(6-methoxynaphthalen-2-yl)benzenediazonium tetrafluoroborate (320 mg), 3-benzyloxyphenylboronic acid (235 mg) and palladium(II) acetate (10 mg) in 1,4-dioxane (4 ml) was stirred overnight at room temperature under a nitrogen atmosphere. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (181 mg).

reactant | 5-methoxy-2-(6-methoxynaphthalen-2-yl)phenyl amine | 340 mg | COC=1C=CC(=C(C1)N)C1=CC2=CC=C(C=C2C=C1)OC | C18H17NO2
reactant | tetrafluoroboric acid | 0.22 ml | F[B-](F)(F)F.[H+]
reactant | isoamyl nitrite | 2.4 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | Diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 2-(3′-Benzyloxy-5-methoxybiphenyl-2-yl)-6-methoxynaphthalene | 181 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(C=CC(=C1)OC)C1=CC2=CC=C(C=C2C=C1)OC | C31H26O3
